US06803382B2
385 mg (1.74 mmol) of trimethylsulphoxonium iodide are added to a suspension of sodium hydride (28 mg, 1.16 mmol) in 1 mL of DMSO. The mixture is stirred for 40 minutes, followed by successive addition of 1 mL of THF and 186 mg of anhydrous lithium iodide. The mixture is stirred for a further 30 minutes, cooled to 0° C., and 39 mg (0.11 mmol) of (2S,3S,4R)-2-(cyclohex-1-enyl)-3-methoxy-4-p-methoxybenzyloxy-cyclohexanone dissolved in 0.5 mL of THF are added. The bath is removed and the reaction is allowed to continue for 40 minutes at room temperature. After adding pH 7 buffer, extracton and evaporation of the solvents, the product is purified by chromatography on a preparative silica plate (eluent: 1:1 ether/pentane) to give 19 mg (45%) of (3R,4S,5S,6R)-4-(cyclohex-1-enyl)-5-methoxy-6-p-methoxybenzyloxy-1-oxaspiro[2,5]octane in the form of a colourless oil.

reactant | trimethylsulphoxonium iodide | 1.74 mmol, 385 mg | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 1.16 mmol, 28 mg | [H-].[Na+]
reactant | lithium iodide | 186 mg | [I-].[Li+]
reactant | (2S,3S,4R)-2-(cyclohex-1-enyl)-3-methoxy-4-p-methoxybenzyloxy-cyclohexanone | 0.11 mmol, 39 mg | C1(=CCCCC1)[C@@H]1C(CC[C@H]([C@H]1OC)OCC1=CC=C(C=C1)OC)=O | C21H28O4
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3R,4S,5S,6R)-4-(cyclohex-1-enyl)-5-methoxy-6-p-methoxybenzyloxy-1-oxaspiro[2,5]octane | 19 mg, 45% | C1(=CCCCC1)[C@@H]1[C@@]2(CO2)CC[C@H]([C@H]1OC)OCC1=CC=C(C=C1)OC | C22H30O4
